US07138491B2
The preparation of Boc-Arg(Tos)-Pro-OBzl
At 0° C. the solution of 18 mg (0.075 mmol) of HCl Pro-OBzl in 5 ml of anhydrous tetrahydrofuran was adjusted to pH 9, to which the pre-cold solution of 33 mg (0.077 mmol) Boc-Arg(Tos)-OH, 10 mg (0.074 mmol) of 1-hydroxybenzotriazole and 16 mg (0.077 mmol) of dicyclohexylcarbodiimide in 10 ml of anhydrous tetrahydrofuran was added. The reaction mixture was stirred at 0° C. for 2 h and at room temperature for 5 h and TLC (chloroform/methanol, 30:1) indicated complete disappearance of HCl.Arg(Tos)-Pro-Ala-Lys(ClZ)-OBzl (SEQ ID NO: 12). The resulted precipitates of N,N-dicyclohexylurea were filtrated and the filtrate was diluted with 30 ml of ethyl acetate. The solution obtained was washed successively with saturated NaCO3 in water (10 ml×3), saturated NaCl in water (10 ml×3) and KHSO4 in water (5%, 10 ml×3). The separated ethyl acetate layer was dried with anhydrous MgSO4, filtered. The filtrate was evaporated to provide 37 mg (80%) of the title compound as a colorless powder. Mp 60–62° C., FAB-MS (m/e) 617[M+H]+.

reactant | Boc-Arg(Tos)-OH | 0.077 mmol, 33 mg | N([C@@H](CCCNC(NS(=O)(=O)C1=CC=C(C)C=C1)=N)C(=O)O)C(=O)OC(C)(C)C | C18H28N4O6S
reactant | 1-hydroxybenzotriazole | 0.074 mmol, 10 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | dicyclohexylcarbodiimide | 0.077 mmol, 16 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | HCl | Cl | ClH
reactant | Arg(Tos)-Pro-Ala-Lys(ClZ)-OBzl | N[C@@H](CCCNC(NS(=O)(=O)C1=CC=C(C)C=C1)=N)C(=O)N1[C@H](C(=O)N[C@@H](C)C(=O)N[C@@H](CCCCNC(=O)OCC2=C(Cl)C=CC=C2)C(=O)OCC2=CC=CC=C2)CCC1 | C42H55ClN8O9S
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | Boc-Arg(Tos)-Pro-OBzl | 37 mg, 80% | N([C@@H](CCCNC(NS(=O)(=O)C1=CC=C(C)C=C1)=N)C(=O)N1[C@H](C(=O)OCC2=CC=CC=C2)CCC1)C(=O)OC(C)(C)C | C30H41N5O7S
